Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Presyncope, Fall
 
Major Surgical or Invasive Procedure:
EGD ___
Capsule endoscopy ___
Colonoscopy ___

 
History of Present Illness:
___ with history of CVA, seizures, upper GI AVM's with chronic 
anemia, HTN, presents after presyncopal fall. 

On ___ she was at home and went to linen closet to grab 
something. Then felt presyncopal, dizzy, warm feeling, and fell 
backwards, hitting her head first against a bedroom door which 
gave way, and then against the floor. No LOC. Daughter came to 
her aid. She did not want to go to the hospital. The next day 
she went to ___. CT head and CT C-spine 
negative for
acute bleed or fracture. Today she went to her GI appointment 
and was referred to ___. Last ___ she reported a seizure 
episode where her arms were shaking and she was in a daze. This 
lasted for a few minutes. Consistent with prior seizures 
episodes.

In the ___, initial VS were:  
- 98.3 77 147/45 19 100% RA 
- Exam: diffuse mild abd tenderness, scant brown stool in rectal
vault +guaiac, 
- Labs: Hgb 7.4, Creatinine 1.1, Lactate 1.3, urine WBC 35, lg
leuk, hazy, few bac
- Imaging: CXR clear. CT A/P no acute process.

On interview she reports acute on chronic "soreness" in neck, 
back, hips, for which she takes oxycodone at home. Otherwise no 
acute complaints.
 
REVIEW OF SYSTEMS: 
+tinnitus; all other positives per HPI
otherwise 10 point ROS reviewed and negative except as per HPI  
 
Past Medical History:
- Hypertension
- Renal Artery Stenosis
- Seizures
- CVA
- Gallstone pancreatitis
- Iron deficiency anemia
- AVM's in stomach and duodenum
- Lumbar radiculopathy
- Chronic opioid use, with pain contract
- Hypothyroidism
- Hyperlipidemia
- COPD
- Neuropathic pain
- GERD
- DVT 
 
Social History:
___
Family History:
Mother had dementia.
Father had asbestosis and mesothelioma.

 
Physical Exam:
ADMISSION PHYSICAL
================== 
VS:   98.3  130 / 55  58 18 99 ra 
GENERAL: NAD  
HEENT: PERRL, EOMI, no nystagmus, tongue moist
NECK: +L carotid bruit
HEART: RRR, S1, S2, no murmurs
LUNGS: LCAB
ABDOMEN: s, lower abdominal tenderness
GU: suprapubic tenderness
EXTREMITIES: no edema
NEURO: A&Ox3, moving all 4 extremities with purpose, RLE 
weakness

DISCHARGE PHYSICAL
==================
___ ___ Temp: 97.9 PO BP: 162/62 HR: 56 RR: 18 O2
sat: 97% O2 delivery: Ra  
GENERAL: NAD, sitting in bed
NECK: +bilateral carotid bruits  
HEART: RRR, S1, S2, no murmurs  
PULM: CTABL 
ABDOMEN: soft, mildly distended without tenderness, +BS
EXTREMITIES: warm, 1+ ___ pulses bilaterally, no edema  
NEURO: A&Ox3, no facial asymmetry, moving all 4 extremities with
purpose
 
Pertinent Results:
ADMISSION LABS
==============
___ 05:50PM BLOOD WBC-5.5 RBC-2.49* Hgb-7.4* Hct-22.3* 
MCV-90 MCH-29.7 MCHC-33.2 RDW-15.3 RDWSD-50.4* Plt ___
___ 05:50PM BLOOD Neuts-47.5 ___ Monos-8.9 Eos-7.5* 
Baso-0.5 Im ___ AbsNeut-2.60 AbsLymp-1.94 AbsMono-0.49 
AbsEos-0.41 AbsBaso-0.03
___ 05:50PM BLOOD ___ PTT-34.2 ___
___ 05:50PM BLOOD Glucose-101* UreaN-12 Creat-1.1 Na-138 
K-4.2 Cl-99 HCO3-24 AnGap-15
___ 05:50PM BLOOD ALT-14 AST-13 AlkPhos-43 TotBili-0.3
___ 05:50PM BLOOD Lipase-22
___ 05:50PM BLOOD proBNP-78
___ 05:50PM BLOOD cTropnT-<0.01
___ 05:50PM BLOOD Albumin-4.8 Calcium-9.6 Phos-3.7 Mg-1.8

PERTINENT INTERVAL LABS
=======================
___ 09:10AM BLOOD Calcium-9.4 Phos-4.1 Mg-1.8 Iron-16*
___ 09:10AM BLOOD calTIBC-382 VitB12-318 Folate-14 
Ferritn-14 TRF-294
___ 06:48AM BLOOD TSH-3.6
___ 06:48AM BLOOD Free T4-0.9*

DISCHARGE LABS
==============
___ 05:35AM BLOOD WBC-5.0 RBC-3.62* Hgb-10.7* Hct-34.0 
MCV-94 MCH-29.6 MCHC-31.5* RDW-15.5 RDWSD-53.1* Plt ___
___ 05:35AM BLOOD Glucose-91 UreaN-20 Creat-1.1 Na-144 
K-4.5 Cl-104 HCO3-24 AnGap-16
___ 05:35AM BLOOD Calcium-9.6 Phos-5.0* Mg-2.0

MICROBIOLOGY
============
Urine Culture ___: MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), 
CONSISTENT WITH SKIN AND/OR GENITAL CONTAMINATION

IMAGING AND STUDIES
===================
___ CXR
AP upright and lateral views of the chest provided.
There is no focal consolidation, effusion, or pneumothorax. The
cardiomediastinal silhouette is normal. Imaged osseous 
structures are intact. 
No free air below the right hemidiaphragm is seen.

___ CT ABD/PEVLIS W CON
1. Colonic diverticulosis without evidence of diverticulitis.  
No signs of
colitis or bowel obstruction.  Normal appendix.
2. Status post cholecystectomy with stable mild prominence of 
the intrahepatic
and extrahepatic biliary tree.
3. Extensive aortoiliac atherosclerotic calcification with 
stents in the
bilateral external iliac arteries which appear patent.
4. Atrophic right kidney.
5. Trace free pelvic fluid, nonspecific.

___ ECHO (TTE)
The left atrial volume index is normal. The estimated right 
atrial pressure is ___ mmHg. Left ventricular wall thickness, 
cavity size and regional/global systolic function are normal 
(LVEF >55%). There is no left ventricular outflow obstruction at 
rest or with Valsalva. There is no ventricular septal defect. 
Right ventricular chamber size and free wall motion are normal. 
The aortic valve leaflets (3) are mildly thickened but aortic 
stenosis is not present. No aortic regurgitation is seen. The 
mitral valve appears structurally normal with trivial mitral 
regurgitation. There is no mitral valve prolapse. The estimated 
pulmonary artery systolic pressure is normal. There is no 
pericardial effusion. 

IMPRESSION: Normal biventricular cavity size and global/regional 
systolic function. No pathological valvular flow identified. No 
structural cause for syncope identified. 

___ CAROTID ULTRASOUND
Moderate-to-marked predominantly heterogeneous soft plaque 
within the
bilateral carotid arteries most profound within the mid ICAs, 
right greater
than left, resulting in hemodynamically significant stenosis 
estimated to be 80-99% bilaterally.

___ EGD
Mucosa suggestive of ___ Esophagus
Erosion in pylorus
Angioectasias in stomach and second part of duodenum (Thermal 
Therapy applied)
Capsule released in duodenum

___ COLONOSCOPY 
Aborted due to high residue material

___ pMIBI
FINDINGS:  There was soft tissue attenuation. 
Left ventricular cavity size is within normal limits. 
Rest and stress perfusion images reveal uniform tracer uptake 
throughout the  left ventricular myocardium. 
  
Gated images reveal normal wall motion. 
The calculated left ventricular ejection fraction is 71%. 
  
IMPRESSION: 1. No evidence of myocardial perfusion defect. 2. 
Normal left 
ventricular cavity size with normal systolic function. 

___ KUB
Endoscopy capsule in the proximal descending colon.

___ KUB
Endoscopy pill capsule has migrated since ___, now 
possibly in the sigmoid colon. 
 
Brief Hospital Course:
___ with history of CVA, seizures, upper GI AVM's with chronic 
anemia, HTN, peripheral vasculopathy, who presented after 
presyncopal fall.  

ACUTE ISSUES 
============
# Acute on Chronic Blood Loss Anemia 
# Upper GI Bleed
Presented with ongoing intermittent melena and known gastric and 
duodenal AVMs per prior EGD's s/p single balloon enteroscopy 
with APC to small bowel AVMs. Stool guaiac positive in ___. 
Required 2u pRBCs during her hospitalization. EGD showed several 
duodenal/gastric AVMs that were cauterized, as well as likely 
___ esophagus. Patient was iron deficient and was given 2 
125mg IV infusions of ferric  gluconate. Patient was continued 
on PPI prophylaxis.

# Seizures
Patient reported that her last seizure 1 week prior to admission 
and involved extremity shaking and AMS that lasted several 
minutes, consistent with previous episodes. Neurology was 
consulted for optimization of her AEDs. EEG was performed and 
the patient was continued on Keppra with plans for outpatient 
followup in neurology clinic. She had no seizures in house.

# Severe, Bilateral Carotid Artery Stenosis
Carotid US done as part of pre-syncope work-up revealed severe 
bilateral carotid artery stenosis (80-99%). She was seen by 
vascular surgery in house, who recommended no urgent treatment. 
This could certainly contribute to pre-syncope, however vascular 
surgery will followup with patient for CEA consideration. 

# Presyncope
Presented 4 days after presyncopal episode at home with fall and 
head trauma. CT head and c-spine were negative at OSH. Signs and 
symptoms not consistent with prior seizures. Initial ddx 
included CNS process (TIA, carotid stenosis), cardiac (had old 
RBBB on EKG, and new LBBB on this admission), orthostasis (had 
previously documented orthostatic hypotension), vasovagal event, 
peripheral vertigo (has tinnitus), or symptomatic anemia. 

# Concern for Cardiac Conduction Disease
Noted patient has HRs usually in ___, even when standing and 
lightheaded. There was concern that she was not adequately 
augmenting her cardiac output with exertion due to conduction 
disease and this blunted response was contributing to her 
pre-syncope. Also noted to initially have RBBB on EKG, but then 
LBBB on EKG done later in the same day (in ___ on presentation). 
Unusual and concerning for conduction disease, so cardiology was 
consulted and beta-blocker (home med) was held. pMIBI revealed 
no overt ischemia and ambulatory telemetry revealed that 
patients heart rates increased to ___. Cardiology felt that this 
was an appropriate response and the patient did not require 
further electrophysiologic evaluation during this 
hospitalization.

# Hypertension
Patient has history of hypertension (renal artery stenosis) with 
orthostatic hypotension. Antihypertensives were held in the 
setting of GI bleed but were restarted once her GI bleed was 
addressed. She was continued on home doses of blood pressure 
medications and was also started on chlorthalidone 12.5mg daily 
for better control.   

# Chronic Back and Neck Pain
Has narcotics contract w PCP for oxycodone 5mg BID since 
___. Review of MassPMP indicates pt also prescribed 
vicodin in OSH ___ three days prior to presentation. Likely that 
pain is exacerbated by recent fall, so increased pain regimen 
while in-house. 

CHRONIC ISSUES
==============
# Neuropathic pain: continued gabapentin 300mg TID. 
# GERD: continued PPI and famotidine. 
# Chronic nausea: continued ondansetron PRN. 

TRANSITIONAL ISSUES
===================
[]Ensure passage of capsule, on discharge KUB ___ noted to be 
in sigmoid colon/rectum. Consider repeat KUB to assess if 
concerned. Per GI, very unlikely to cause obstruction once in 
colon.
[]Labetalol/Beta-Blockade: Recommend avoiding all beta-blockade 
given heart rates in the ___. Patient's labetalol was 
discontinued to avoid negative chronotrope effect
[]Chlorthalidone: titrate dose as needed for adequate blood 
pressure control
[]ASA 81: discharged on ASA 81 given stroke risk in the setting 
of severe carotid disease, if GI bleed recurs, risk/benefit 
should be discussed with patient (okay to hold per inpatient 
cardiology recommendations but neurology would recommend 
continuing)
[]Atorvastatin: increased to 80mg (although less data in 
secondary prevention) due to severe vascular disease
___ esophagus: Noted on EGD. Will have follow up 
endoscopy with plan for biopsy in ___  
[]Labs: Repeat CBC at clinic visit to ensure stability, 
discharge Hgb 9.9
[]Vascular Followup: Has appointment with Dr. ___ ___ for 
CEA evaluation
[]Neurology Followup: Has appointment for further management of 
anti-seizure medications

# Contact/HCP: ___ (daughter) ___  
# Code status: Full, presumed
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 10 mg PO DAILY hypertension 
2. Atorvastatin 40 mg PO QPM 
3. LevETIRAcetam 1500 mg PO Q12H 
4. Lisinopril 40 mg PO DAILY 
5. Simethicone 40-80 mg PO QID:PRN abd pain 
6. Famotidine 20 mg PO BID 
7. Ondansetron 4 mg PO Q8H:PRN nausea 
8. Pantoprazole 40 mg PO Q12H 
9. Aspirin 81 mg PO DAILY 
10. Ferrous Sulfate 325 mg PO BID 
11. Ascorbic Acid ___ mg PO BID 
12. OxyCODONE (Immediate Release) 5 mg PO Q12H:PRN BREAKTHROUGH 
PAIN 
13. Labetalol 200 mg PO BID 
14. Gabapentin 300 mg PO TID 
The Preadmission Medication list is accurate and complete.
1. amLODIPine 10 mg PO DAILY hypertension 
2. Atorvastatin 40 mg PO QPM 
3. LevETIRAcetam 1500 mg PO Q12H 
4. Lisinopril 40 mg PO DAILY 
5. Simethicone 40-80 mg PO QID:PRN abd pain 
6. Famotidine 20 mg PO BID 
7. Ondansetron 4 mg PO Q8H:PRN nausea 
8. Pantoprazole 40 mg PO Q12H 
9. Aspirin 81 mg PO DAILY 
10. Ferrous Sulfate 325 mg PO BID 
11. Ascorbic Acid ___ mg PO BID 
12. OxyCODONE (Immediate Release) 5 mg PO Q12H:PRN BREAKTHROUGH 
PAIN 
13. Labetalol 200 mg PO BID 
14. Gabapentin 300 mg PO TID 

 
Discharge Medications:
1.  Bisacodyl 10 mg PO/PR DAILY:PRN constipation 
RX *bisacodyl 5 mg 2 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
2.  Chlorthalidone 12.5 mg PO DAILY 
RX *chlorthalidone 25 mg 0.5 (One half) tablet(s) by mouth daily 
Disp #*30 Tablet Refills:*0 
3.  Docusate Sodium 100 mg PO BID constipation 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice daily 
Disp #*30 Capsule Refills:*0 
4.  Multivitamins W/minerals 1 TAB PO DAILY 
RX *multivitamin,tx-minerals  1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*0 
5.  Polyethylene Glycol 17 g PO DAILY constipation 
RX *polyethylene glycol 3350 [PEG___] 17 gram/dose 17 g by 
mouth daily Refills:*0 
6.  Senna 8.6 mg PO BID 
RX *sennosides [senna] 8.6 mg 1 by mouth twice a day Disp #*30 
Tablet Refills:*0 
7.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth at nightime Disp 
#*30 Tablet Refills:*0 
8.  amLODIPine 10 mg PO DAILY hypertension  
9.  Ascorbic Acid ___ mg PO BID  
10.  Aspirin 81 mg PO DAILY  
11.  Famotidine 20 mg PO BID  
12.  Ferrous Sulfate 325 mg PO BID  
13.  Gabapentin 300 mg PO TID  
14.  LevETIRAcetam 1500 mg PO Q12H  
15.  Lisinopril 40 mg PO DAILY  
16.  Ondansetron 4 mg PO Q8H:PRN nausea  
17.  OxyCODONE (Immediate Release) 5 mg PO Q12H:PRN BREAKTHROUGH 
PAIN  
18.  Pantoprazole 40 mg PO Q12H  
19.  Simethicone 40-80 mg PO QID:PRN abd pain  
20.Rolling Walker
Please provide rolling walker.
Dx: Seizure Disorder (ICD-9: 780.39)
Prognosis: Good
___: 13 Months

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnoses
=================
Acute on chronic upper GI bleed
Severe, bilateral coronary artery stenosis
Seizure disorder
Orthostatic hypotension

Secondary Diagnoses
===================
Bipolar Disorder
Hepatitis B

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___, 

___ was a pleasure taking care of you in the hospital.

WHY DID YOU COME TO THE HOSPITAL?
-You felt lightheaded and suffered a fall

WHAT HAPPENED TO YOU DURING YOUR HOSPITAL STAY?
-You were given blood to increase your blood counts
-Your bloody bowel movements were evaluated and treated by the 
gastroenterologists
-You were evaluated for seizures by the neurologists and was 
started on a medication to prevent seizures 
-You were found to have severe blockages in both arteries 
supplying blood to brain and need to follow-up with the vascular 
surgeons in vascular surgery clinic to discuss surgical 
correction of these blockages
-Your heart was evaluated by the cardiologists who do not 
recommend any further testing at this time

WHAT SHOULD YOU DO WHEN YOU LEAVE THE HOSPITAL?
please take all of your medications as prescribed, details 
below
Please keep all of your appointments as scheduled
-Please keep track of whether you have passed the capsule in 
your bowel movement. If you have not passed the capsule in 2 
days since discharge, you should be seen in clinic by your PCP. 
Please call your PCP right away if you have any symptoms such as 
constipation, vomiting, anorexia, and if you are not passing any 
gas.

We wish you the very best!

Your ___ Care Team
 
Followup Instructions:
___